Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:22][CH2:21][N:4]([CH2:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]3[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]3)[cH:19][cH:20]2)[CH2:3][CH2:2]1>>[NH:1]1[CH2:2][CH2:3][N:4]([CH2:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]3[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]3)[cH:19][cH:20]2)[CH2:21][CH2:22]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][N:4]([CH2:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]3[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]3)[cH:19][cH:20]2)[CH2:21][CH2:22]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][N:4]([CH2:5][c:6]2[cH:7][cH:8][c:9]([O:10][CH2:11][c:12]3[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]3)[cH:19][cH:20]2)[CH2:21][CH2:22]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C1c2ccccc2C(=O)[N:1]1[CH2:2][CH2:3][c:4]1[n:5][c:6]([NH2:7])[s:8][cH:9]1>>[NH2:1][CH2:2][CH2:3][c:4]1[n:5][c:6]([NH2:7])[s:8][cH:9]1,[O:201]=[C:102]1[c:202]2cccc[c:204]2[C:101](=[O:203])[N:1]1[CH2:2][CH2:3][c:4]1[n:5][c:6]([NH2:7])[s:8][cH:9]1.[NH2:301][NH2:302]>>[NH2:1][CH2:2][CH2:3][c:4]1[n:5][c:6]([NH2:7])[s:8][cH:9]1,Ing_Manske,"[(301, 102), ([102, 201], 201), (201, [201, 102]), ([102, 1], 1), (1, 301.1), ([301.1, 301], 301), (302, 101), ([101, 203], 203), (1, 302.1), ([302.1, 302], 302), (203, [203, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][c:4]([NH:5][C:6]([c:7]2[c:8](=[O:9])[nH:10][c:11]3[c:12]([cH:13][n:14][c:15]([O:16][CH3:17])[n:18]3)[cH:19]2)=[O:20])[c:21]([Cl:22])[cH:23][cH:24]1)=[O:25].[CH3:26][C:27]([CH3:28])([CH3:29])[O:30][C:31](=[O:32])[N:33]1[CH2:34][CH2:35][C:36]([NH2:37])([c:38]2[cH:39][cH:40][cH:41][cH:42][cH:43]2)[CH2:44][CH2:45]1>>[C:1]([c:2]1[cH:3][c:4]([NH:5][C:6]([c:7]2[c:8](=[O:9])[nH:10][c:11]3[c:12]([cH:13][n:14][c:15]([O:16][CH3:17])[n:18]3)[cH:19]2)=[O:20])[c:21]([Cl:22])[cH:23][cH:24]1)(=[O:25])[NH:37][C:36]1([c:38]2[cH:39][cH:40][cH:41][cH:42][cH:43]2)[CH2:35][CH2:34][N:33]([C:31]([O:30][C:27]([CH3:26])([CH3:28])[CH3:29])=[O:32])[CH2:45][CH2:44]1,[OH:101][C:1]([c:2]1[cH:3][c:4]([NH:5][C:6]([c:7]2[c:8](=[O:9])[nH:10][c:11]3[c:12]([cH:13][n:14][c:15]([O:16][CH3:17])[n:18]3)[cH:19]2)=[O:20])[c:21]([Cl:22])[cH:23][cH:24]1)=[O:25].[CH3:26][C:27]([CH3:28])([CH3:29])[O:30][C:31](=[O:32])[N:33]1[CH2:34][CH2:35][C:36]([NH2:37])([c:38]2[cH:39][cH:40][cH:41][cH:42][cH:43]2)[CH2:44][CH2:45]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][c:4]([NH:5][C:6]([c:7]2[c:8](=[O:9])[nH:10][c:11]3[c:12]([cH:13][n:14][c:15]([O:16][CH3:17])[n:18]3)[cH:19]2)=[O:20])[c:21]([Cl:22])[cH:23][cH:24]1)(=[O:25])[NH:37][C:36]1([c:38]2[cH:39][cH:40][cH:41][cH:42][cH:43]2)[CH2:35][CH2:34][N:33]([C:31]([O:30][C:27]([CH3:26])([CH3:28])[CH3:29])=[O:32])[CH2:45][CH2:44]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (37, 1), ([1, 25], 25), (303, 37.1), ([37.1, 37], 37), (25, [25, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][cH:7][cH:8]1.[CH3:9][CH2:10][N:11]([CH2:12][CH3:13])[CH:14]1[CH2:15][CH2:16][c:17]2[o:18][c:19]3[cH:20][cH:21][c:22]([NH2:23])[cH:24][c:25]3[c:26]2[CH2:27]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][cH:7][cH:8]1)[NH:23][c:22]1[cH:21][cH:20][c:19]2[o:18][c:17]3[c:26]([c:25]2[cH:24]1)[CH2:27][CH:14]([N:11]([CH2:10][CH3:9])[CH2:12][CH3:13])[CH2:15][CH2:16]3,[CH3:9][CH2:10][N:11]([CH2:12][CH3:13])[CH:14]1[CH2:15][CH2:16][c:17]2[o:18][c:19]3[cH:20][cH:21][c:22]([NH2:23])[cH:24][c:25]3[c:26]2[CH2:27]1.[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][cH:7][cH:8]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][cH:7][cH:8]1)[NH:23][c:22]1[cH:21][cH:20][c:19]2[o:18][c:17]3[c:26]([c:25]2[cH:24]1)[CH2:27][CH:14]([N:11]([CH2:10][CH3:9])[CH2:12][CH3:13])[CH2:15][CH2:16]3,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(23, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
